US08703768B2
Step 1: 6-Acetyl-3-tert-butoxycarbonylamino-pyrazine-2-carboxylic acid methyl ester
To a stirred solution of an 1:4 mixture of methyl 3-(bis(tert-butoxycarbonyl)amino)-6-bromopyrazine-2-carboxylate and methyl 6-bromo-3-(tert-butoxycarbonylamino)pyrazine-2-carboxylate (ca. 4.1 g, 11.6 mmol) at rt in toluene (55 ml) under an argon atmosphere were added bis(triphenylpohsphine)palladium(II) chloride (81.1 mg, 0.12 mmol) and 1-ethoxyvinyl tri-N-butyltin (3.0 g, 2.8 ml, 12.7 mmol). The clear yellow solution was heated to reflux and stirring was continued for 18 h. The mixture was cooled to 0° C. 1 N HCl (55 ml) was added dropwise within 15 min. The biphasic mixture was stirred vigourously for 22 h, slowly warming up to rt. The layers were separated. The organic layer was diluted with 150 ml EtOAc (150 ml). Then, a 10% aqueous ammonium fluoride solution (150 ml) was added. The biphasic mixture was then stirred at rt for 5 h and then filtered. The organic phase of the filtrate was washed with 50 ml brine, dried (MgSO4), filtered and concentrated. The product was purified by silica gel chromatography using a n-heptane/ethyl acetate gradient. The product-containing fractions were concentrated. The residue was triturated with n-heptane/cyclohexane 9:1 (20 ml). The suspension was stirred for 2 hrs. The solid was filtrated, washed with n-heptane and dried to give the title compound (1.54 g, 45%) as off-white solid.

reactant | methyl 3-(bis(tert-butoxycarbonyl)amino)-6-bromopyrazine-2-carboxylate | C(C)(C)(C)OC(=O)N(C=1C(=NC(=CN1)Br)C(=O)OC)C(=O)OC(C)(C)C | C16H22BrN3O6
reactant | methyl 6-bromo-3-(tert-butoxycarbonylamino)pyrazine-2-carboxylate | 11.6 mmol, ca. 4.1 g | BrC1=CN=C(C(=N1)C(=O)OC)NC(=O)OC(C)(C)C | C11H14BrN3O4
reactant | HCl | 1 N, 55 ml | Cl | ClH
solvent | toluene | 55 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Acetyl-3-tert-butoxycarbonylamino-pyrazine-2-carboxylic acid methyl ester | 1.54 g, 45% | COC(=O)C1=NC(=CN=C1NC(=O)OC(C)(C)C)C(C)=O | C13H17N3O5
